US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-hydroxypropylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
To a solution of 60 mg mitomycin A (0.17 mmol) in 5 ml of anhydrous methanol was added with stirring 0.5 ml of 3-hydroxypropylamine. The progress of the reaction was checked by TLC and the reaction appeared to be complete in two hours. The solvent was removed by evaporation under reduced pressure. The residue was dissolved in 100 ml of ethyl acetate and the organic layer was washed with water, dried over anhydrous sodium sulfate, and the solvent was removed by evaporating under reduced pressure. The residue was then chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with a mixture of ethyl acetate and acetone (9:1 by volume) was evaporated to dryness under reduced pressure. Recrystallization from acetone gave 60.7 mg (91% yield) of the desired product as purple crystals having a melting point of >250° (decomposing and providing the following analysis:

reactant | mitomycin A | 0.17 mmol, 60 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | 3-hydroxypropylamine | 0.5 ml | OCCCN | C3H9NO
solvent | methanol | 5 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-hydroxypropylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 60.7 mg, 91% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCCCO)C)=O)CC1C2N1)OC | InChI=1S/C17H23N3O5.CH3NO2/c1-8-12(18-4-3-5-21)15(24)11-9(7-22)17(25-2)16-10(19-16)6-20(17)13(11)14(8)23;2-1(3)4/h9-10,16,18-19,21-22H,3-7H2,1-2H3;2H2,(H,3,4)
